US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (7 g) and 2-(phenylsulfonyl)ethyl bromide (5.6 g) were reacted and treated in the same manner as in Example 199 to give 2.74 g of 4-amino-5-chloro-2-methoxy-N-((1-(2-(phenylsulfonyl)ethyl)-piperidin-4-yl)methyl)benzamide hydrochloride.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 7 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 2-(phenylsulfonyl)ethyl bromide | 5.6 g | C1(=CC=CC=C1)S(=O)(=O)CCBr | C8H9BrO2S
product | 4-amino-5-chloro-2-methoxy-N-((1-(2-(phenylsulfonyl)ethyl)-piperidin-4-yl)methyl)benzamide hydrochloride | 2.74 g | Cl.NC1=CC(=C(C(=O)NCC2CCN(CC2)CCS(=O)(=O)C2=CC=CC=C2)C=C1Cl)OC | InChI=1S/C22H28ClN3O4S.ClH/c1-30-21-14-20(24)19(23)13-18(21)22(27)25-15-16-7-9-26(10-8-16)11-12-31(28,29)17-5-3-2-4-6-17;/h2-6,13-14,16H,7-12,15,24H2,1H3,(H,25,27);1H
